US03951952
4. 4-Imidazolylthioformimidate dihydrochloride
To 900 mg. of 4-cyanoimidazole in 30 ml. of ethyl mercaptan cooled to 0° C. in a glass pressure bottle is added over 15 min. sufficient hydrogen chloride gas to saturate the solution. The sealed bottle is allowed to remain at room temperature for 20 min., and its contents then treated with 100 ml. of diethyl ether and filtered to give 1.7 g. of the product, m.p. 155°-158° C., dec.

reactant | 4-cyanoimidazole | C(#N)C=1N=CNC1 | C4H3N3
reactant | ethyl mercaptan | C(C)S | C2H6S
reactant | hydrogen chloride | Cl | ClH
product | 4-Imidazolylthioformimidate dihydrochloride | Cl.Cl.N1C=NC(=C1)C(S)=N | InChI=1S/C4H5N3S.2ClH/c5-4(8)3-1-6-2-7-3;;/h1-2H,(H2,5,8)(H,6,7);2*1H
